US05703052
(3β,5α,25R)-3-(t-butyldimethylsilyloxy)spirostan-11,12-dione:
Using the procedure described in Org. Syn., 1976, 55, 84, (3β,5α,12β,25R)-3-(t-butyldimethylsilyloxy)-spirostan-12-ol-11-one was oxidized with chromium trioxide and pyridine in methylene chloride to give the title compound.

reactant | (3β,5α,12β,25R)-3-(t-butyldimethylsilyloxy)-spirostan-12-ol-11-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4([C@@H](C([C@@H]3[C@]2(CC1)C)=O)O)C | C33H56O5Si
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | (3β,5α,25R)-3-(t-butyldimethylsilyloxy)spirostan-11,12-dione | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(C(C([C@@H]3[C@]2(CC1)C)=O)=O)C | C33H54O5Si
